US07572811B2
To a solution of tert-butyl 4-(6-cyano-pyridin-3-yl)-piperazine-1-carboxylate (2.15 mmol) in THF (20 mL) is added a solution of DIBAL-H in THF (1.0 M, 13 mmol) dropwise and the reaction mixture is stirred at room temperature for 15 minutes. After it is cooled to 0° C., the reaction mixture is mixed with a solution of aqueous HCl (2 N, 5 mL) after which the reaction mixture is partitioned between saturated Na2CO3 solution and EtOAc. The aqueous phase is extracted with EtOAc. The combined organic extracts are washed with saturated aqueous NaCl and dried over Na2SO4. After concentration, the residue is purified by silica gel chromatography (3:7 hexanes/EtOAc) to give tert-butyl 4-(6-formyl-pyridin-3-yl)-piperazine-1-carboxylate.

reactant | tert-butyl 4-(6-cyano-pyridin-3-yl)-piperazine-1-carboxylate | 2.15 mmol | C(#N)C1=CC=C(C=N1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H20N4O2
reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
reactant | HCl | 2 N, 5 mL | Cl | ClH
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | THF | 13 mmol, 1.0 M | C1CCOC1 | C4H8O
product | tert-butyl 4-(6-formyl-pyridin-3-yl)-piperazine-1-carboxylate | C(=O)C1=CC=C(C=N1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H21N3O3
